* Clean Xyce pybis tail-fix: PRBS7 + new 50-ohm RLGC channel
* Current best Xyce setup: edge/latch tanh15 + flat Ku/Kd tail after 4.2 ns

.include 'prbs7_vstim.inc'
Ven   en_sig  0  DC 3.3
Vdd   vdd     0  DC 3.3

.include 'driver_OutputInput_Typical_xyce_relaxed92_edge15_tailflat4p2.sub'
XDRV  pad  in_dig  en_sig  vdd  0  driver_OutputInput_Typical

RCH_TX  pad tx_out 1u
.include 'channel_xyce.sp'
RTERM   n10b 0 50

.ic V(pad)=0 V(tx_out)=0 V(n10b)=0 V(XDRV:Ku)=0 V(XDRV:Kd)=1 V(XDRV:NX)=0 V(XDRV:N6)=0 V(XDRV:N8)=0
.options timeint method=trap maxord=1 erroption=1 delmax=20p nlmin=3 nlmax=8 timestepsreversal=1
.options output initial_interval=10p
.tran 10p 1000n uic
.print tran format=csv time V(in_dig) V(pad) V(tx_out) V(n10b) V(XDRV:Ku) V(XDRV:Kd) V(XDRV:NX)
.end
